US07960394B2
4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde
This was produced according to the method of Reference Example 1-(4) but starting from 4-hydroxybenzaldehyde, 3-chloro-bromopropane and (3S)-3-methylpiperidine.

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3-chloro-bromopropane | ClCCCBr | C3H6BrCl
reactant | (3S)-3-methylpiperidine | C[C@@H]1CNCCC1 | C6H13N
product | 4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}benzaldehyde | C[C@@H]1CN(CCC1)CCCOC1=CC=C(C=O)C=C1 | C16H23NO2
